US04959366
(A) 1-(4-Methanesulphonamidophenoxy)-2-[N-methyl-N-(4-nitrophenethyl)amino]ethane
A suspension of N-methyl-4-nitrophenethylamine (1.1 g), 2-(4-methanesulphonamidophenoxy)ethyl chloride (1.5 g), sodium bicarbonate (0.5 g) and sodium iodide (0.9 g) in acetonitrile (100 ml) was stirred at reflux for 4 days. On evaporation to dryness the resultant oil was partitioned between 2N aqueous sodium bicarbonate solution and methylene chloride. After two further extractions with methylene chloride, the organic portions were combined, washed with saturated brine solution, dried over anhydrous magnesium sulphate, filtered and evaporated to dryness. The resultant brown oil was chromatographed on silica ("Kieselgel 60"-Trade Mark) eluting with ethyl acetate followed by collection and evaporation of suitable fractions to give the title compound as a yellow solid, (0.9 g).

reactant | N-methyl-4-nitrophenethylamine | 1.1 g | CNCCC1=CC=C(C=C1)[N+](=O)[O-] | C9H12N2O2
reactant | 2-(4-methanesulphonamidophenoxy)ethyl chloride | 1.5 g | CS(=O)(=O)NC1=CC=C(OCCCl)C=C1 | C9H12ClNO3S
reactant | sodium bicarbonate | 0.5 g | C([O-])(O)=O.[Na+]
reactant | sodium iodide | 0.9 g | [I-].[Na+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-(4-Methanesulphonamidophenoxy)-2-[N-methyl-N-(4-nitrophenethyl)amino]ethane | 0.9 g | CS(=O)(=O)NC1=CC=C(OCCN(CCC2=CC=C(C=C2)[N+](=O)[O-])C)C=C1 | C18H23N3O5S
